US05958969
[2-[4-(t-Butyldimethylsilyloxy)phenyl]-6-trifluoromethylsulfonoyloxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone
A solution was prepared of 10 g (17.5 mmol) of [2-[4-(t-butyldimethylsilyloxy)phenyl]-6-hydroxybenzo[b] thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone in 100 mL of CH2Cl2, which was placed under a nitrogen atmosphere and cooled to 0° C. in an ice bath. Triethylamine (5 mL, 3.6 g, 35.9 mmol) was added followed by the addition of 7 g (19.5 mmol) of N-phenyltrifluoromethanesulfonimide. The reaction was allowed to warm slowly to ambient temperature over a period of sixteen hours. The reaction mixture was filtered and evaporated to a red oil. The crude product was chromatographed on a silica gel column eluted with CH2Cl2. This yielded 11 g of the title compound isolated as a tan amorphous solid.

reactant | [2-[4-(t-butyldimethylsilyloxy)phenyl]-6-hydroxybenzo[b] thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 17.5 mmol, 10 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)C(=O)C2=CC=C(C=C2)OCCN2CCCCC2 | C34H41NO4SSi
reactant | Triethylamine | 35.9 mmol, 5 mL, 3.6 g | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 19.5 mmol, 7 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | [2-[4-(t-Butyldimethylsilyloxy)phenyl]-6-trifluoromethylsulfonoyloxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 11 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OS(=O)(=O)C(F)(F)F)C(=O)C2=CC=C(C=C2)OCCN2CCCCC2 | C35H40F3NO6S2Si
